US05032598
Step A: Preparation of 5,6-dihydro-5-dimethylaminomethylthieno[2,3-b]thiopyran-4-one hydrochloride
A mixture of 5,6-dihydrothieno[2,3-b]thiopyran-4-one (12.5 g, 0.074 mol), paraformaldehyde (7.5 g, 0.25 mol), dimethylamine-hydrochloride (40 g, 0.49 mol) and acetic acid (2 ml) was heated with stirring at 100° C. for 1 hour. After allowing to cool to room temperature, the solid was triturated with ethanol and the solid was collected on a filter to yield 16.3 g (83%) of the title compound. An analytical sample was prepared by crystallization from 95% ethanol and filtration through a pad of norite-ducco-supercel to yield product with mp 155°-157° C. Anal. Calc'd. for C10H13NOS2.HCl.

reactant | 5,6-dihydrothieno[2,3-b]thiopyran-4-one | 0.074 mol, 12.5 g | S1C=CC2=C1SCCC2=O | C7H6OS2
reactant | paraformaldehyde | 0.25 mol, 7.5 g | C=O | CH2O
reactant | dimethylamine-hydrochloride | 0.49 mol, 40 g | Cl.CNC
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 5,6-dihydro-5-dimethylaminomethylthieno[2,3-b]thiopyran-4-one hydrochloride | 16.3 g, 83% | Cl.CN(C)CC1C(C2=C(SC1)SC=C2)=O | InChI=1S/C10H13NOS2.ClH/c1-11(2)5-7-6-14-10-8(9(7)12)3-4-13-10;/h3-4,7H,5-6H2,1-2H3;1H
